US09290511B2
5-Bromo-4-chlorothieno[2,3-d]pyrimidine (2.11 g, 8.5 mmol) in dry acetonitrile (100 mL) was treated with 8-azabicyclo[3.2.1]octan3-ol (1.34 g, 10.6 mmol) and potassium carbonate (3.519 g, 25.5 mmol) and stirred and heated at reflux for 4 h. The reaction was diluted with ethyl acetate (200 mL) and dichloromethane (100 mL) and washed with water (100 mL). The organic layer was separated, dried over sodium sulphate and concentrated in vacuum to give 8-(5-bromothieno[2,3-d]pyrimidin-4-yl)-8-azabicyclo[3.2.1]octan-3-ol as a yellow solid (2.890 g, 8.5 mmol, 100%). This was used directly in the next step without further purification. 1H NMR (CDCl3) δ: 1.83 (2H, d, J=12 Hz), 2.0 (2H, br s) 2.28 (2H, d, J=6 Hz), 2.45 (2H, d, J=8 Hz), 4.15 (1H, br s), 4.7 (2H, br s), 7.35 (1H, s), 8.45 (1H, s).

reactant | 5-Bromo-4-chlorothieno[2,3-d]pyrimidine | 8.5 mmol, 2.11 g | BrC1=CSC=2N=CN=C(C21)Cl | C6H2BrClN2S
reactant | 8-azabicyclo[3.2.1]octan3-ol | 10.6 mmol, 1.34 g | C12CC(CC(CC1)N2)O | C7H13NO
reactant | potassium carbonate | 25.5 mmol, 3.519 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 8-(5-bromothieno[2,3-d]pyrimidin-4-yl)-8-azabicyclo[3.2.1]octan-3-ol | 8.5 mmol, 2.890 g, 100% | BrC1=CSC=2N=CN=C(C21)N2C1CC(CC2CC1)O | C13H14BrN3OS
